US09302996B2
By using methyl 3-(4-{5-[amino (imino)methyl]pyridin-2-yl) phenoxy)-2,2-dimethylpropanoate acetate (400 mg), and 1-bromobutan-2-one (234 mg), the procedure was carried out in the same manner as in Example 35(2) to obtain methyl 3-[4-[5-[5-ethyl-1H-imidazol-2-yl)-2-pyridyl]phenoxy]-2,2-dimethylpropanoate (397 mg).

reactant | methyl 3-(4-{5-[amino (imino)methyl]pyridin-2-yl) phenoxy)-2,2-dimethylpropanoate acetate | 400 mg | C(C)(=O)O.NC(C=1C=CC(=NC1)C1=CC=C(OCC(C(=O)OC)(C)C)C=C1)=N
reactant | 1-bromobutan-2-one | 234 mg | BrCC(CC)=O | C4H7BrO
product | methyl 3-[4-[5-[5-ethyl-1H-imidazol-2-yl)-2-pyridyl]phenoxy]-2,2-dimethylpropanoate | 397 mg | C(C)C1=CN=C(N1)C=1C=CC(=NC1)C1=CC=C(OCC(C(=O)OC)(C)C)C=C1 | C22H25N3O3
